US07320995B2
(5-bromo-2-nitro-phenyl)amine
In a sealed reaction tube, add cautiously 6 mL of an aqueous solution of ammonia (32%) to a solution of 2,4-dibromonitrobenzene (1,6 g) in 2 mL of DMSO. Stir for 18 hours at 100° C. and cool to room temperature. Pour the heterogeneous mixture into water and filter the title compound (1.1 g, 92%) as a yellow solid.

reactant | ammonia | N | H3N
reactant | 2,4-dibromonitrobenzene | 1,6 g | BrC1=C(C=CC(=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | water | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (5-bromo-2-nitro-phenyl)amine | BrC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5BrN2O2
